2184-04-14 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   LP attempted without fluid.
 EKG - At [**2184-4-13**] 09:30 PM
   POSTERIOR EKG.
 EKG - At [**2184-4-13**] 09:45 PM
   Right Sided EKG.
 MAGNETIC RESONANCE IMAGING - At [**2184-4-14**] 06:13 AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-4-14**] 01:30 AM
   Acyclovir - [**2184-4-14**] 04:08 AM
   Ampicillin - [**2184-4-14**] 04:42 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-14**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 59 (55 - 79) bpm
   BP: 122/47(65) {81/39(52) - 148/58(81)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,267 mL
                                                                  3,140 mL
   PO:
           TF:
   IVF:
                                                                  2,313 mL
                                                                  2,451 mL
   Blood products:
                                                                    455 mL
                                                                    689 mL
   Total out:
                                                                    855 mL
                                                                    115 mL
   Urine:
                                                                    855 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,412 mL
                                                                  3,025 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/40/160/24/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General: Intubated, sedated, no distress
   HEENT: Pupils pinpoint but reactive, EOMI, oropharynx clear
   Neck: JVP not elevated
   Cardiac:  Irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   GI: soft, non-distended, +BS
   GU: foley with clear yellow urine
   Ext: Warm and well perfuse, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Pupils pinpoint, corneal reflexes intact, withdraws all
   four extremities to painful stimuli, reflexes 1+ and symmetric, normal
   bulk and tone
   Labs / Radiology
   157 K/uL
   8.4 g/dL
   232 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   25 mg/dL
   102 mEq/L
   147 mEq/L
   24.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2184-4-13**]  07:08 PM
                             [**2184-4-13**]  08:48 PM
                             [**2184-4-14**]  04:22 AM
                             [**2184-4-14**]  04:32 AM
   WBC
   7.8
   Hct
   24.6
   Plt
   157
   Cr
   1.4
   TropT
   0.18
   TCO2
   28
   27
   Glucose
   232
   Other labs: PT / PTT / INR:17.7/30.0/1.6, CK / CKMB /
   Troponin-T:598/6/0.18, Differential-Neuts:79.1 %, Lymph:14.1 %,
   Mono:4.9 %, Eos:1.5 %, Lactic Acid:1.7 mmol/L, Ca++:7.6 mg/dL, Mg++:2.4
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5617**] is a 77 year old male with a history of atrial
   fibrillation on coumadin and hypertension who presents from home with
   altered mental status for one day and fevers.
   .
   Altered Mental Status/Fevers:  Differential diagnosis is broad.
   Concern at this time for infectious etiologies.  UA from OSH with
   evidence of blood after foley placement but nitrite and esterase
   negative.  Here UA consistent with infection.  CT torso without
   evidence of infection.  Blood and urine cultures pending.  CT head
   without acute process.  MRI not yet performed.  LP not performed
   secondary to elevated INR.
   - empiric coverage for meningitis while awaiting LP with vancomycin,
   ceftriaxone, ampicillin and acyclovir
   - 2 units FFP now in anticipation of LP
   - MRI head
   - follow blood and urine cultures
   - check digoxin levels given altered EKG and hold digoxin for now
   - will continue on assist control ventilation over night for procedures
   and then try to wean as tolerated
   .
   Abnormal EKG/Elevated cardiac enzymes:  Patient with deep T wave
   inversions in the inferior and lateral leads.  No history of chest pain
   but currently intubated and sedated.  Is on digoxin at baseline. No ST
   elevation in the right sided or posterior EKGs. Initial cardiac enzymes
   notable for flat CKs with a troponin of 0.16.  Second set with CK 598,
   MB 6 Troponin 0.18. Most likely etiology of elevated cardiac enzymes is
   demand ischemia.  EKG discussed with cardiology.  Will continue
   antiplatelet therapy and trend cardiac enzymes for now.
   - aspirin 325 mg daily
   - holding metoprolol given mild hypotension
   - no heparin gtt as supratherapeutic INR
   - no ace-inhibitor given hypotension
   - trend cardiac enzymes
   - repeat EKG in AM
   .
   Elevated Blood Sugars: No history of diabetes.
   - will check hemoglobin A1C
   - will start insulin drip and calculate insulin requirements over 24
   hour period
   .
   Atrial Fibrillation:  Currently well rate controlled.
   - aspirin 325 mg daily
   - holding coumadin and reversing INR with FFP
   - holding beta blocker given mild hypotension
   - restart digoxin
   .
   Acute Renal Failure:  Unclear baseline.  Creatinine currently 1.4.
   - IVF for urine output > 30 cc/hr
   - monitor creatinine
   - renally dose medications
   .
   Hypertension:  Currently  mildly hypotensive in the setting of
   infection and sedating medciations.
   - holding antihypertensives
   .
   FEN: NPO, monitor electrolytes, IVF for urine output > 30 cc/hr, MAP >
   65
   .
   Access: peripherals
   .
   Prophylaxis: therapeutic INR
   .
   Code: Full
   .
   Communication:  Wife
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-4-13**] 07:05 PM
   22 Gauge - [**2184-4-13**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-04-15 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs likely related to infx, await CSF, no specific recs
   - MRI head no ICH, no edema, chronic microvasc infarct, no e/o infx
   - Unable to get IR guided LP due to INR 1.8 after 6u [** 3055**], vit K 1mg
   - plan IR in AM after INR correction to <1.4
   - weaned to propofol sedation
   - Trop 0.19->0.18->0.08
   - a-line placed
   - lasix 10IV given
 ARTERIAL LINE - START [**2184-4-14**] 02:06 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-14**] 02:30 PM
   Ceftriaxone - [**2184-4-15**] 02:00 AM
   Acyclovir - [**2184-4-15**] 03:45 AM
   Ampicillin - [**2184-4-15**] 04:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2184-4-14**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-15**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (48 - 80) bpm
   BP: 159/66(90) {131/59(80) - 197/77(109)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
           Total In:
                                                                  4,668 mL
                                                                    894 mL
   PO:
           TF:
                                                                     53 mL
                                                                    105 mL
   IVF:
                                                                  3,363 mL
                                                                    530 mL
   Blood products:
                                                                  1,253 mL
                                                                    258 mL
   Total out:
                                                                  1,348 mL
                                                                    560 mL
   Urine:
                                                                  1,348 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,320 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/41/159/25/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General: Intubated, sedated, no distress
   HEENT: Pupils pinpoint but reactive, EOMI, oropharynx clear
   Neck: JVP not elevated
   Cardiac:  Irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   GI: soft, non-distended, +BS
   GU: foley with clear yellow urine
   Ext: Warm and well perfuse, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Pupils pinpoint, corneal reflexes intact, withdraws all
   four extremities to painful stimuli, reflexes 1+ and symmetric, normal
   bulk and tone
   Labs / Radiology
   156 K/uL
   10.1 g/dL
   170 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   109 mEq/L
   142 mEq/L
   28.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2184-4-13**]  07:08 PM
                             [**2184-4-13**]  08:48 PM
                             [**2184-4-14**]  04:22 AM
                             [**2184-4-14**]  04:32 AM
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
   WBC
   7.8
   8.1
   7.0
   Hct
   24.6
   29.2
   28.9
   Plt
   157
   154
   156
   Cr
   1.4
   1.4
   1.2
   TropT
   0.18
   0.08
   TCO2
   28
   27
   30
   Glucose
   232
   99
   170
   Other labs: PT / PTT / INR:17.8/33.1/1.6, CK / CKMB /
   Troponin-T:1244/9/0.08, ALT / AST:14/41, Alk Phos / T Bili:65/0.4,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5617**] is a 77 year old male with a history of atrial
   fibrillation on coumadin and hypertension who presents from home with
   altered mental status for one day and fevers.
   Altered Mental Status/Fevers:  Differential diagnosis is broad.
   Concern at this time for infectious etiologies.  UA from OSH with
   evidence of blood after foley placement but nitrite and esterase
   negative.  Here UA consistent with infection.  CT torso without
   evidence of infection.  Blood and urine cultures pending.  CT head
   without acute process.  MRI performed without revealing etiology of
   change in mental status.  LP not performed secondary to elevated INR.
   - empiric coverage for meningitis while awaiting LP with vancomycin,
   ceftriaxone, ampicillin and acyclovir
   - 2 units [**Known lastname 3055**] now in anticipation of LP today
   - follow blood and urine cultures
   - will continue on assist control ventilation until completed
   procedures and then try to wean as tolerated
   Respiratory status: Initially intubated for airway protection in
   conjunction with altered mental status. Today, CXR with evidence of
   volume overload
   - diurese today for -1 to -2 L
   - wean sedation and vent as tolerated after LP
   - may need NG tube placed (has OG) prior to extubation but do not
   anticipate extubation today
   Abnormal EKG/Elevated cardiac enzymes:  Patient with deep T wave
   inversions in the inferior and lateral leads.  No history of chest pain
   but currently intubated and sedated.  Is on digoxin at baseline. No ST
   elevation in the right sided or posterior EKGs. Initial cardiac enzymes
   notable for flat CKs with a troponin of 0.16.  Second set with CK 598,
   MB 6 Troponin 0.18. Most likely etiology of elevated cardiac enzymes is
   demand ischemia.  EKG discussed with cardiology.  Will continue
   antiplatelet therapy and trend cardiac enzymes for now.
   - aspirin 325 mg daily
   - holding metoprolol given mild hypotension
   - no heparin gtt as supratherapeutic INR
   - trend cardiac enzymes (trop is down but CK still elevated)
   Elevated Blood Sugars: No history of diabetes. hemoglobin A1C of 13 c/w
   long-standing diabetes
   - will use insulin drip and calculate insulin requirements over 24 hour
   period
   Anion gap: Unexplained anion gap yesterday which is resolved today. No
   osmolar gap.
   Atrial Fibrillation:  Currently well rate controlled.
   - aspirin 325 mg daily
   - holding coumadin and reversing INR with [**Last Name (LF) 3055**], [**First Name3 (LF) 124**] restart after
   procedures are completed.
   - holding beta blocker given mild hypotension and bradycardia
   - hold digoxin given bradycardia.
   Acute Renal Failure:  Unclear baseline.  Creatinine currently 1.2 down
   from 1.4.
   - IVF for urine output > 30 cc/hr
   - monitor creatinine
   - renally dose medications
   Hypertension:  Currently  mildly hypotensive in the setting of
   infection and sedating medciations.
   - captopril started due to hypertension, titrate as needed
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 124**] restart coumadin after procedures.
   Code: Full
   Communication:  Wife
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-4-14**] 06:45 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-4-13**] 07:04 PM
   20 Gauge - [**2184-4-13**] 07:05 PM
   Arterial Line - [**2184-4-14**] 02:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-04-16 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresis ongoing with bolus IV furosemide 10 mg x 3
   - Patient traveled to IR for LP with note of protein of 178, WBC 3, RBC
   12, glucose 116
   - Patient with BP up to 220s systolic at times, captopril dosing
   increased and night with plan for AM restart of home lisinopril. Also
   started on metoprolol.
 LUMBAR PUNCTURE - At [**2184-4-15**] 11:03 AM
   in IR
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-15**] 12:45 PM
   Ceftriaxone - [**2184-4-16**] 02:00 AM
   Acyclovir - [**2184-4-16**] 03:41 AM
   Ampicillin - [**2184-4-16**] 04:41 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-4-15**] 08:00 AM
   Lansoprazole (Prevacid) - [**2184-4-15**] 09:00 AM
   Fentanyl - [**2184-4-15**] 02:00 PM
   Furosemide (Lasix) - [**2184-4-16**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-16**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 75 (50 - 92) bpm
   BP: 150/55(78) {150/55(78) - 160/59(82)} mmHg
   RR: 26 (7 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,851 mL
                                                                  1,373 mL
   PO:
             TF:
                                                                    385 mL
                                                                    309 mL
   IVF:
                                                                  1,555 mL
                                                                    564 mL
   Blood products:
                                                                    570 mL
   Total out:
                                                                  4,215 mL
                                                                    750 mL
   Urine:
                                                                  4,215 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,364 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 600) mL
   Vt (Spontaneous): 502 (457 - 560) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/46/144/28/6
   Ve: 8.2 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General: Intubated, sedated, no distress
   HEENT: Pupils pinpoint but reactive, EOMI, oropharynx clear
   Neck: JVP not elevated
   Cardiac:  Irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   GI: soft, non-distended, +BS
   GU: foley with clear yellow urine
   Ext: Warm and well perfuse, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Pupils pinpoint, corneal reflexes intact, withdraws all
   four extremities to painful stimuli, reflexes 1+ and symmetric, normal
   bulk and tone
   Labs / Radiology
   173 K/uL
   10.2 g/dL
   95 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   109 mEq/L
   145 mEq/L
   30.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2184-4-13**]  07:08 PM
                             [**2184-4-13**]  08:48 PM
                             [**2184-4-14**]  04:22 AM
                             [**2184-4-14**]  04:32 AM
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
                             [**2184-4-15**]  04:09 PM
                             [**2184-4-16**]  05:02 AM
                             [**2184-4-16**]  05:18 AM
   WBC
   7.8
   8.1
   7.0
   6.5
   Hct
   24.6
   29.2
   28.9
   30.8
   Plt
   157
   154
   156
   173
   Cr
   1.4
   1.4
   1.2
   1.2
   TropT
   0.18
   0.08
   0.05
   TCO2
   28
   27
   30
   32
   Glucose
   232
   99
   170
   196
   95
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB /
   Troponin-T:272/4/0.05, ALT / AST:19/34, Alk Phos / T Bili:76/0.2,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:209 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5617**] is a 77 year old male with a history of atrial
   fibrillation on coumadin and hypertension who presents from home with
   altered mental status for one day and fevers.
   Altered Mental Status/Fevers:  Differential diagnosis is broad.
   Concern at this time for infectious etiologies.  UA from OSH with
   evidence of blood after foley placement but nitrite and esterase
   negative.  Here UA consistent with infection.  CT torso without
   evidence of infection.  Blood and urine cultures pending.  CT head
   without acute process.  MRI performed without revealing etiology of
   change in mental status.  LP not performed secondary to elevated INR.
   - empiric coverage for meningitis while awaiting LP with vancomycin,
   ceftriaxone, ampicillin and acyclovir
   - 2 units [**Known lastname 3055**] now in anticipation of LP today
   - follow blood and urine cultures
   - will continue on assist control ventilation until completed
   procedures and then try to wean as tolerated
   Respiratory status: Initially intubated for airway protection in
   conjunction with altered mental status. Today, CXR with evidence of
   volume overload
   - diurese today for -1 to -2 L
   - wean sedation and vent as tolerated after LP
   - may need NG tube placed (has OG) prior to extubation but do not
   anticipate extubation today
   Abnormal EKG/Elevated cardiac enzymes:  Patient with deep T wave
   inversions in the inferior and lateral leads.  No history of chest pain
   but currently intubated and sedated.  Is on digoxin at baseline. No ST
   elevation in the right sided or posterior EKGs. Initial cardiac enzymes
   notable for flat CKs with a troponin of 0.16.  Second set with CK 598,
   MB 6 Troponin 0.18. Most likely etiology of elevated cardiac enzymes is
   demand ischemia.  EKG discussed with cardiology.  Will continue
   antiplatelet therapy and trend cardiac enzymes for now.
   - aspirin 325 mg daily
   - holding metoprolol given mild hypotension
   - no heparin gtt as supratherapeutic INR
   - trend cardiac enzymes (trop is down but CK still elevated)
   Elevated Blood Sugars: No history of diabetes. hemoglobin A1C of 13 c/w
   long-standing diabetes
   - will use insulin drip and calculate insulin requirements over 24 hour
   period
   Anion gap: Unexplained anion gap yesterday which is resolved today. No
   osmolar gap.
   Atrial Fibrillation:  Currently well rate controlled.
   - aspirin 325 mg daily
   - holding coumadin and reversing INR with [**Last Name (LF) 3055**], [**First Name3 (LF) 124**] restart after
   procedures are completed.
   - holding beta blocker given mild hypotension and bradycardia
   - hold digoxin given bradycardia.
   Acute Renal Failure:  Unclear baseline.  Creatinine currently 1.2 down
   from 1.4.
   - IVF for urine output > 30 cc/hr
   - monitor creatinine
   - renally dose medications
   Hypertension:  Currently  mildly hypotensive in the setting of
   infection and sedating medciations.
   - captopril started due to hypertension, titrate as needed
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 124**] restart coumadin after procedures.
   Code: Full
   Communication:  Wife
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-4-15**] 10:07 PM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-4-13**] 07:04 PM
   Arterial Line - [**2184-4-14**] 02:06 PM
   20 Gauge - [**2184-4-15**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-04-17 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2184-4-16**] 08:00 PM
   - improved mental status, responding to commands
   - weaned to [**5-11**], SBT at 5/0 for one hour with a RSBI 76
   - increased Metoprolol to 50 TID and increased Lasix to 20mg IV TID
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-16**] 08:00 PM
   Ceftriaxone - [**2184-4-17**] 02:35 AM
   Ampicillin - [**2184-4-17**] 04:00 AM
   Acyclovir - [**2184-4-17**] 04:00 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-4-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-4-17**] 12:35 AM
   Furosemide (Lasix) - [**2184-4-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-17**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 80 (69 - 97) bpm
   BP: 161/62(89) {124/46(66) - 216/96(137)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  5,258 mL
                                                                  1,345 mL
   PO:
             TF:
                                                                  1,305 mL
                                                                    472 mL
   IVF:
                                                                  1,953 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  4,195 mL
                                                                  1,430 mL
   Urine:
                                                                  4,195 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,063 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   SpO2: 98%
   ABG: ///28/
   Ve: 10 L/min
   Physical Examination
   General: Intubated, sedated, no distress
   HEENT: Pupils pinpoint but reactive, EOMI, oropharynx clear
   Neck: JVP not elevated
   Cardiac:  Irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   GI: soft, non-distended, +BS
   GU: foley with clear yellow urine
   Ext: Warm and well perfuse, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Pupils pinpoint, corneal reflexes intact, withdraws all
   four extremities to painful stimuli, reflexes 1+ and symmetric, normal
   bulk and tone
   Labs / Radiology
   207 K/uL
   10.5 g/dL
   109 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   18 mg/dL
   108 mEq/L
   145 mEq/L
   32.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2184-4-14**]  04:22 AM
                             [**2184-4-14**]  04:32 AM
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
                             [**2184-4-15**]  04:09 PM
                             [**2184-4-16**]  05:02 AM
                             [**2184-4-16**]  05:18 AM
                             [**2184-4-16**]  03:19 PM
                             [**2184-4-17**]  03:38 AM
   WBC
   7.8
   8.1
   7.0
   6.5
   8.3
   Hct
   24.6
   29.2
   28.9
   30.8
   32.6
   Plt
   157
   154
   156
   173
   207
   Cr
   1.4
   1.4
   1.2
   1.2
   1.3
   1.4
   TropT
   0.08
   0.05
   TCO2
   27
   30
   32
   Glucose
   232
   99
   170
   196
   95
   141
   109
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB /
   Troponin-T:272/4/0.05, ALT / AST:19/34, Alk Phos / T Bili:76/0.2,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:209 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5617**] is a 77 year old male with a history of atrial
   fibrillation on coumadin and hypertension who presents from home with
   altered mental status for one day and fevers.
   Altered Mental Status/Fevers:  Differential diagnosis is broad.
   Concern at this time for infectious etiologies.  UA from OSH with
   evidence of blood after foley placement but nitrite and esterase
   negative.  Here UA consistent with infection.  CT torso without
   evidence of infection.  Blood and urine cultures pending.  CT head
   without acute process.  MRI performed without revealing etiology of
   change in mental status.  LP performed with elevated protein and
   glucose suspicious for treated meningitis/aseptic meningitis.
   - empiric coverage for meningitis while awaiting LP cultures and HSV
   PCR with vancomycin, ceftriaxone, ampicillin and acyclovir.  Will plan
   2 week course of treatment given that patient had already had 2d of abx
   prior to LP and expect sterile cultures.
   - follow blood and urine cultures
   Respiratory status: Initially intubated for airway protection in
   conjunction with altered mental status. Today, CXR with evidence of
   volume overload.
   - diurese today for -1 to -2 L with lasix boluses
   - Good SBP trial this AM without difficulty.  Will plan to extubate..
   - NGT placed in anticipation of extubation today
   Abnormal EKG/Elevated cardiac enzymes:  Patient with deep T wave
   inversions in the inferior and lateral leads.  No history of chest pain
   but currently intubated and sedated.  Is on digoxin at baseline. No ST
   elevation in the right sided or posterior EKGs. Initial cardiac enzymes
   notable for flat CKs with a troponin of 0.16.  Second set with CK 598,
   MB 6 Troponin 0.18. Most likely etiology of elevated cardiac enzymes is
   demand ischemia.  EKG discussed with cardiology.  Will continue
   antiplatelet therapy.
   - aspirin 325 mg daily
   - cont metoprolol to 50mg tid
   - no heparin gtt
   - will plan to restart coumadin tomorrow
   Elevated Blood Sugars: No history of diabetes. hemoglobin A1C of 13 c/w
   long-standing diabetes
   - will use insulin drip for now
   - once extubated, will start to transition patient to long acting
   insulin and HISS
   Anion gap: Unexplained anion gap previously which is now resolved. No
   osmolar gap.
   Atrial Fibrillation:  Currently well rate controlled.
   - aspirin 325 mg daily
   - will plan to restart coumadin tomorrow potentially.
   - cont metoprolol, titrate as needed for rate and blood pressure.
   - holding digoxin due to previous bradycardia, can restart if HR
   remains consistently elevated.
   Acute Renal Failure:  Unclear baseline.  Creatinine currently 1.4.
   - IVF for urine output > 30 cc/hr
   - monitor creatinine with increasing lasix doses
   - renally dose medications
   Hypertension/hypotension:  Currently mildly hypotensive in the setting
   of infection and sedating medciations.  Will watch with a-line.
   - cont  lisinopril
   - cont metoprolol, titrate as needed and tolerated
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 124**] restart coumadin later in this admission
   after procedures are clearly finished, bowel regimen.
   Code: Full
   Communication:  Wife
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-4-17**] 02:08 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-4-14**] 02:06 PM
   20 Gauge - [**2184-4-15**] 02:00 PM
   PICC Line - [**2184-4-16**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-04-17 08:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2184-4-16**] 08:00 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-16**] 08:00 PM
   Ceftriaxone - [**2184-4-17**] 02:35 AM
   Ampicillin - [**2184-4-17**] 04:00 AM
   Acyclovir - [**2184-4-17**] 04:00 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-4-17**] 12:35 AM
   Furosemide (Lasix) - [**2184-4-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-17**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 80 (69 - 97) bpm
   BP: 161/62(89) {124/46(66) - 216/96(137)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  5,258 mL
                                                                  1,434 mL
   PO:
             TF:
                                                                  1,305 mL
                                                                    540 mL
   IVF:
                                                                  1,953 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                  4,195 mL
                                                                  1,430 mL
   Urine:
                                                                  4,195 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,063 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   SpO2: 98%
   ABG: ///28/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   207 K/uL
   109 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   18 mg/dL
   108 mEq/L
   145 mEq/L
   32.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2184-4-14**]  04:22 AM
                             [**2184-4-14**]  04:32 AM
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
                             [**2184-4-15**]  04:09 PM
                             [**2184-4-16**]  05:02 AM
                             [**2184-4-16**]  05:18 AM
                             [**2184-4-16**]  03:19 PM
                             [**2184-4-17**]  03:38 AM
   WBC
   7.8
   8.1
   7.0
   6.5
   8.3
   Hct
   24.6
   29.2
   28.9
   30.8
   32.6
   Plt
   157
   154
   156
   173
   207
   Cr
   1.4
   1.4
   1.2
   1.2
   1.3
   1.4
   TropT
   0.08
   0.05
   TCO2
   27
   30
   32
   Glucose
   232
   99
   170
   196
   95
   141
   109
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB /
   Troponin-T:272/4/0.05, ALT / AST:19/34, Alk Phos / T Bili:76/0.2,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:209 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 AORTIC ANEURYSM, ABDOMINAL WITHOUT RUPTURE (AAA)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-4-17**] 02:08 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-4-14**] 02:06 PM
   20 Gauge - [**2184-4-15**] 02:00 PM
   PICC Line - [**2184-4-16**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2184-04-18 07:14:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - Extubated, no complications.  NGT placed, good position, patient
   later pulled out his NG tube
   - Plan restart coumadin soon
   - CSF cx [**4-15**] pending, CSF HSVcx pending
   - Increased metoprolol to 75 mg TID
   Patient still with somewhat altered mental status. Unable to carry a
   fluent conversation; however, denies chest pain, difficulty breathing.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-17**] 08:29 AM
   Ceftriaxone - [**2184-4-18**] 02:00 AM
   Ampicillin - [**2184-4-18**] 04:00 AM
   Acyclovir - [**2184-4-18**] 04:00 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-4-17**] 05:00 PM
   Hydralazine - [**2184-4-18**] 04:00 AM
   Furosemide (Lasix) - [**2184-4-18**] 06:00 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 96 (72 - 109) bpm
   BP: 128/47(68) {128/43(66) - 212/85(119)} mmHg
   RR: 21 (13 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,752 mL
                                                                    638 mL
   PO:
   TF:
                                                                    461 mL
   IVF:
                                                                  1,570 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  4,340 mL
                                                                    800 mL
   Urine:
                                                                  4,340 mL
                                                                    800 mL
   Balance:
                                                                 -1,588 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: 4L NC
   Physical Examination
   GEN: NAD, sitting up in bed, in restraints
   HEENT: PERRL, EOMI, oral mucosa moist
   NECK: Supple, no LAD
   PULM: CTAB anteriorly
   CARD: RR, nl S1, nl S2, LLSB II/VI short systolic murmur
   ABD: Soft, NT, ND
   EXT: no C/C/E
   NEURO: Oriented only to self, not able to maintain a conversation;
   however, will answer specific questions. Non-focal motor exam.
   Labs / Radiology
   192 K/uL
   11.2 g/dL
   138 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.5 mEq/L
   25 mg/dL
   105 mEq/L
   144 mEq/L
   32.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
                             [**2184-4-15**]  04:09 PM
                             [**2184-4-16**]  05:02 AM
                             [**2184-4-16**]  05:18 AM
                             [**2184-4-16**]  03:19 PM
                             [**2184-4-17**]  03:38 AM
                             [**2184-4-17**]  04:22 PM
                             [**2184-4-18**]  04:37 AM
   WBC
   8.1
   7.0
   6.5
   8.3
   8.7
   Hct
   29.2
   28.9
   30.8
   32.6
   32.3
   Plt
   154
   156
   173
   207
   192
   Cr
   1.4
   1.2
   1.2
   1.3
   1.4
   1.4
   1.3
   TropT
   0.08
   0.05
   TCO2
   30
   32
   Glucose
   99
   170
   196
   95
   141
   109
   173
   138
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB /
   Troponin-T:272/4/0.05, ALT / AST:19/34, Alk Phos / T Bili:76/0.2,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:209 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   77 year old male with a history of atrial fibrillation on coumadin and
   hypertension who presents from home with altered mental status for one
   day and fevers.
   # Altered Mental Status:
   Had positive UA; however, negative urine culture at presentation. Blood
   cultures negative thus far. Has been receiving empiric meningitis
   coverage. LP performed with elevated protein and glucose suspicious for
   treated meningitis/aseptic meningitis.
   - Continue vancomycin, ampicillin, ceftriaxone, acyclovir for total of
   2 weeks ending on [**2184-4-26**].
   - Follow CSF, blood, and urine cultures
   # Hypertension:
   Known baseline hypertension; however, patient has had systolics up to
   220s in ICU at time of agitation. Have been titrating up BP regimen and
   giving hydralazine IV as needed for systolics > 200.
   - Continue 40 mg lisinopril and metoprolol 75 mg TID
   - Initiate amlodipine 5 mg daily and titrate up daily as needed
   # Respiratory status: Initially intubated for airway protection in
   conjunction with altered mental status. Today, CXR with evidence of
   volume overload.
   - diurese today for -1 to -2 L with lasix boluses
   - Good SBP trial this AM without difficulty.  Will plan to extubate..
   - NGT placed in anticipation of extubation today
   # Abnormal EKG/Elevated cardiac enzymes:
   Patient with deep T wave inversions in the inferior and lateral leads.
   No history of chest pain.  Is on digoxin at baseline, but this has been
   discontinued. No ST elevation in the right sided or posterior EKGs.
   Initial cardiac enzymes notable for flat CKs with a troponin of 0.16.
   Second set with CK 598, MB 6 Troponin 0.18. Most likely etiology of
   elevated cardiac enzymes is demand ischemia.  EKG discussed with
   cardiology.  Will continue antiplatelet therapy.
   - Aspirin 325 mg daily
   - Cont metoprolol to 75 mg three times daily
   - Initiate anticoagulation with lovenox bridge to warfarin
   # Elevated Blood Sugars:
   No history of diabetes. hemoglobin A1C of 13 at presentation,
   consistent with long-standing diabetes.
   - Transition to glargine and sliding scale insulin
   # Atrial Fibrillation:
   Currently well rate-controlled.
   - aspirin 325 mg daily
   - Initiate anticoagulation with lovenox bridge to warfarin
   - Cont metoprolol at 75 mg three times daily
   - Holding digoxin due to previous bradycardia, can restart if HR
   remains consistently elevated.
   # Acute kidney injury:
   Unclear baseline.  Creatinine currently 1.3 and stable.
   - Monitor urine output
   - Monitor creatinine with increasing lasix doses
   - Renally dose medications
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2184-4-14**] 02:06 PM
   PICC Line - [**2184-4-16**] 08:00 PM
   Prophylaxis:
   DVT: [**Last Name (LF) 2220**], [**First Name3 (LF) 124**] initiate lovenox and bridge to warfarin this AM
   Stress ulcer:
   Communication: Wife
   [**Name (NI) 156**] status: Full code
   Disposition: Possibly to floor this PM if hypertension better
   controlled and mental status stable

2184-04-18 07:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 5467**]
 note today, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday
   Mental status improved
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-17**] 08:29 AM
   Ceftriaxone - [**2184-4-18**] 02:00 AM
   Ampicillin - [**2184-4-18**] 04:00 AM
   Acyclovir - [**2184-4-18**] 04:00 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-4-17**] 05:00 PM
   Hydralazine - [**2184-4-18**] 04:00 AM
   Furosemide (Lasix) - [**2184-4-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-18**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 96 (72 - 109) bpm
   BP: 128/47(68) {128/43(66) - 212/85(119)} mmHg
   RR: 21 (13 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,752 mL
                                                                    657 mL
   PO:
             TF:
                                                                    461 mL
   IVF:
                                                                  1,570 mL
                                                                    507 mL
   Blood products:
   Total out:
                                                                  4,340 mL
                                                                    800 mL
   Urine:
                                                                  4,340 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,588 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: ///28/
   Ve: 9.6 L/min
   Physical Examination
   Confused, no ditress
   Lung decreased bs
   Rrr
   Abd benign
   Extreme no edema
   Labs / Radiology
   11.2 g/dL
   192 K/uL
   138 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.5 mEq/L
   25 mg/dL
   105 mEq/L
   144 mEq/L
   32.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2184-4-14**]  09:54 AM
                             [**2184-4-15**]  02:00 AM
                             [**2184-4-15**]  02:03 AM
                             [**2184-4-15**]  04:09 PM
                             [**2184-4-16**]  05:02 AM
                             [**2184-4-16**]  05:18 AM
                             [**2184-4-16**]  03:19 PM
                             [**2184-4-17**]  03:38 AM
                             [**2184-4-17**]  04:22 PM
                             [**2184-4-18**]  04:37 AM
   WBC
   8.1
   7.0
   6.5
   8.3
   8.7
   Hct
   29.2
   28.9
   30.8
   32.6
   32.3
   Plt
   154
   156
   173
   207
   192
   Cr
   1.4
   1.2
   1.2
   1.3
   1.4
   1.4
   1.3
   TropT
   0.08
   0.05
   TCO2
   30
   32
   Glucose
   99
   170
   196
   95
   141
   109
   173
   138
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB /
   Troponin-T:272/4/0.05, ALT / AST:19/34, Alk Phos / T Bili:76/0.2,
   Differential-Neuts:78.3 %, Lymph:13.8 %, Mono:4.4 %, Eos:3.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:209 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   CXR patchy stable infiltrates
   Assessment and Plan
 HYPERTENSION
 needing hydralazine at times for hypertension, will
   start amlodipine
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 likely due to viral
   meningitis, cont current abx regimen for now, overall improved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 extubated yesterday,
   stable, continue diuresis
 ATRIAL FIBRILLATION (AFIB) cont ASA, metoprolol for now, will
   re-anticoagulate
   DM
 continue insulin gtt
   ICU Care
   Nutrition:  will try po
   Replete with Fiber (Full) - [**2184-4-17**] 08:20 PM
   Glycemic Control:   insulin gtt
   Lines:
   Arterial Line - [**2184-4-14**] 02:06 PM
   PICC Line - [**2184-4-16**] 08:00 PM
   Prophylaxis:
   DVT:  boots, being anticoagulated
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu